US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-[(2-morpholinoethyl)aminoiminomethylamino)-benzoate.
30 Milliliters of 20% hydrous pyridine was added to 1.2 g of 4-[(2-morpholinoethyl)aminoiminomethylamino]benzoic acid.dihydrochloride, 1.72 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 1.06 g of DCC and 52.4 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 48 hours at room temperature. The precipitate was filtered and the filtrate was concentrated under reduced pressure. To the residue was added 15 ml of DMF, and the solution was added dropwise to 400 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using methyl ethyl ketone-water-formic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To the residue were added 15 ml of methanol and 2.2 ml of concentrated hydrochloric acid, and the solution was added dropwise to 450 ml of acetone, followed by stirring for 15 minutes under cooling with ice. Then, the precipitate was collected by filtration to obtain 840 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-[(2-morpholinoethyl)aminoiminomethylamino]benzoic acid.dihydrochloride | 1.2 g | Cl.Cl.O1CCN(CC1)CCNN=CNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 1.72 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 1.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 52.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methyl ethyl ketone water formic acid | C(C)C(=O)C.O.C(=O)O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-[(2-morpholinoethyl)aminoiminomethylamino)-benzoate | 840 mg | O1CCN(CC1)CCNN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | C27H31N7O4
